US07893058B2
Step 1: 4-Bromo-thiophene-2-carboxylic acid amide
In the same way as described for Compound 179, step 2, using 4 bromo-thiophene-2-carboxylic acid (2.0 g, 9.66 mmol), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (2.04 g, 10.63 mmol), 1-hydroxybenzotriazole hydrate (1.44 g, 10.63 mmol) and aq. NH3 (1 ml, 17.3 mmol) in DMF (20 ml). Water is added to the reaction mixture and the resultant precipitate is collected by filtration and washed with 1M NaOH, H2O and petrol. The title compound is isolated as a white solid (1.56 g, 78%).

reactant | bromo-thiophene-2-carboxylic acid | 9.66 mmol, 2.0 g | BrC1=C(SC=C1)C(=O)O | C5H3BrO2S
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 10.63 mmol, 2.04 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 10.63 mmol, 1.44 g | O.ON1N=NC2=C1C=CC=C2
reactant | NH3 | 17.3 mmol, 1 ml | N | H3N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 4-Bromo-thiophene-2-carboxylic acid amide | BrC=1C=C(SC1)C(=O)N | C5H4BrNOS
